US08314088B2
6-chloro-N-cyclobutyl-N-methylpyrazin-2-amine
To a solution of 6-chloro-N-cyclobutylpyrazin-2-amine (535 mg) in THF (30 mL) was added dropwise n-butyllithium (1.6 M hexane solution, 2.4 mL) under an argon stream at −78° C., and the mixture was stirred for 30 min. To the reaction mixture was added dropwise a solution of methyl iodide (542 μL) in THF (1 mL), and the mixture was stirred at room temperature for 1.5 hr. To the reaction mixture was added dropwise a saturated ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (solvent gradient: 5→33% ethyl acetate/hexane) to give the title compound (492 mg, 85%).

reactant | 6-chloro-N-cyclobutylpyrazin-2-amine | 535 mg | ClC1=CN=CC(=N1)NC1CCC1 | C8H10ClN3
reactant | n-butyllithium | 1.6 M, 2.4 mL | C(CCC)[Li]
reactant | methyl iodide | 542 μL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-chloro-N-cyclobutyl-N-methylpyrazin-2-amine | 492 mg, 85% | ClC1=CN=CC(=N1)N(C)C1CCC1 | C9H12ClN3
